US07612210B2
A solution of (4S)-4-benzyl-3-[(2R)-2-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)-acetyl]-1,3-oxazolidin-2-one (1.02 g, 2.4 mmol) in 4:1 tetrahydrofuran/water (25 mL) at 0° C. was treated dropwise with a premixed solution of hydrogen peroxide (50% in water, 0.59 mL, 9.6 mmol) and lithium hydroxide monohydrate (115 mg, 4.8 mmol) in water (1 mL). The reaction was stirred at 25° C. for 2 h after which time the tetrahydrofuran was evaporated in vacuo and the aqueous layer was treated with a 2 N aqueous solution of sodium hydroxide (5 mL). The aqueous layer was extracted with ethyl acetate (2×15 mL) followed by methylene chloride (2×15 mL) and the aqueous layer was acidified to pH=2 with a 2 N aqueous solution of hydrochloric acid. The product was extracted with ethyl acetate (3×50 mL) and the combined organic extracts were dried over magnesium sulfate and concentrated to yield a white solid which was recrystallized from ethyl acetate/hexane to yield 565 mg (89%) (2R)-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)acetic acid. MS (ESI) m/z 247; MS (ESI) m/z 263; [α]D25=+71° (c=0.010 g/mL, EtOH); HRMS: calcd for C15H2OO4+NH4+, 282.16998; found (ESI-FT/MS, [M+NH4]1+), 282.1706; enantiomeric excess >99%. The enantiomeric purity was determined, compared to the racemate, under the following Supercritical Fluid Chromatography conditions using Analytical Supercritical Fluid Chromatography (Berger Instruments, Inc. Newark, Del. USA):

reactant | (4S)-4-benzyl-3-[(2R)-2-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)-acetyl]-1,3-oxazolidin-2-one | 2.4 mmol, 1.02 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](C1=CC=C(C=C1)OC)C1(CCCCC1)O)=O | C25H29NO5
reactant | tetrahydrofuran water | 25 mL | O1CCCC1.O
reactant | hydrogen peroxide | 9.6 mmol, 0.59 mL | OO | H2O2
reactant | lithium hydroxide monohydrate | 4.8 mmol, 115 mg | O.[OH-].[Li+]
solvent | water | 1 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R)-(1-hydroxycyclohexyl)-2-(4-methoxyphenyl)acetic acid | 565 mg, 89% | OC1(CCCCC1)[C@H](C(=O)O)C1=CC=C(C=C1)OC | C15H20O4
